US04820834
N-(2,3-Dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl)-N'-(3-methoxyphenyl)-urea
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-thione and 3-methoxyphenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 229°-231° C. (d).

reactant | 3(R,S)-amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-thione | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=S | C15H13N3S
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(2,3-Dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-3-yl)-N'-(3-methoxyphenyl)-urea | C1(=CC=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=S)NC(=O)NC2=CC(=CC=C2)OC | C23H20N4O2S
